US07645776B2
2-Hydrazinocarbonyl-piperidine-1-carboxylic acid tert-butyl ester
3 g of (R)-Piperidine-1,2-dicarboxylic acid 1-tert-butyl ester were dissolved in 30 ml DMF. 5 g HATU and 2.2 ml DIPEA were added and the reaction mixture cooled to 0° C. 4 eq. of Hydrazine-Monohydrate in 30 ml DMF were added and the reaction warmed to rt and stirred for 1 h. The crude product was extracted from ethylacetate/aq. NaHCO3.

reactant | (R)-Piperidine-1,2-dicarboxylic acid 1-tert-butyl ester | 3 g | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)C(=O)O | C11H19NO4
reactant | HATU | 5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.2 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Hydrazine-Monohydrate | 4 eq. | O.NN
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-Hydrazinocarbonyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)NN | C11H21N3O3
